US07109225B2
b] 2-tert-Butyl-4-chloromethyl-5-methyl-oxazole
30 g of the above prepared 2-tert-butyl-4,5-dimethyl-oxazole 3-oxide (˜115 mmol) was dissolved in 390 ml of CH2Cl2 and treated dropwise with 12.74 ml of POCl3 (139 mmol). The reaction mixture was refluxed over night and then quenched by carefully pouring onto crashed ice/3N NaOH. Separation of the layers, additional extraction of the aqueous phase with CH2Cl2, drying of the combined organic phase over sodium sulfate, evaporation of the solvents, and, finally, flash chromatography (SiO2, hexane/AcOEt=85/15) yielded 16.29 g of the title compound as white crystals of mp. 41–44°.

reactant | 2-tert-butyl-4,5-dimethyl-oxazole 3-oxide | ˜115 mmol | C(C)(C)(C)C=1OC(=C([N+]1[O-])C)C | C9H15NO2
reactant | POCl3 | 139 mmol, 12.74 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 390 ml | C(Cl)Cl | CH2Cl2
product | 2-tert-Butyl-4-chloromethyl-5-methyl-oxazole | 16.29 g | C(C)(C)(C)C=1OC(=C(N1)CCl)C | C9H14ClNO
